US05773463
(±) cis-1-[4-(4-Fluorophenoxy)phenoxy]-2-isopropylaminoindane (E40)
The title compound was prepared in a similar manner to Example 31 from (±) cis-2-amino-1-[4-(4-fluorophenoxy)phenoxy]indane (70 mg, 0.2 mmol), sodium cyanoborohydride (25 mg, 0.4 mmol), acetone (0.29 ml, 4 mmol) and acetonitrile (10 ml). After subjecting the crude product to column chromatography on silica gel eluting with 5% ethanol in chloroform, residual boron impurities were removed by dissolving the product in hexanes and filtering. Removal of the hexanes in vacuo afforded the title compound (40 mg) as a colourless oil.

reactant | (±) cis-2-amino-1-[4-(4-fluorophenoxy)phenoxy]indane | 0.2 mmol, 70 mg | N[C@@H]1[C@@H](C2=CC=CC=C2C1)OC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C21H18FNO2
reactant | sodium cyanoborohydride | 0.4 mmol, 25 mg | C(#N)[BH3-].[Na+]
reactant | acetone | 4 mmol, 0.29 ml | CC(=O)C | C3H6O
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | boron | [B] | B
solvent | ethanol | C(C)O | C2H6O
product | (±) cis-1-[4-(4-Fluorophenoxy)phenoxy]-2-isopropylaminoindane | 40 mg | FC1=CC=C(OC2=CC=C(O[C@H]3[C@H](CC4=CC=CC=C34)NC(C)C)C=C2)C=C1 | C24H24FNO2
